US04939289
Preparation of 3-Hydroxypropyl Dimethyl Nonyl Ammonium Iodide
Employing the procedure of EXAMPLE II, 20.0 g of nonyl iodide was reacted with 14.3 ml of N,N-dimethylaminopropanol in 50 ml of acetonitrile to provide a crude product which was slurried with ether to give 27 g (77%) of an amber oil which solidified on standing. Proton NMR confirmed the desired structure.

reactant | nonyl iodide | 20.0 g | C(CCCCCCCC)I | C9H19I
reactant | N,N-dimethylaminopropanol | 14.3 ml | CN(C)C(CC)O | C5H13NO
reactant | ether | CCOCC | C4H10O
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 3-Hydroxypropyl Dimethyl Nonyl Ammonium Iodide | 27 g, 77% | [I-].OCCC[N+](CCCCCCCCC)(C)C | InChI=1S/C14H32NO.HI/c1-4-5-6-7-8-9-10-12-15(2,3)13-11-14-16;/h16H,4-14H2,1-3H3;1H/q+1;/p-1
